US07781478B2
1-(1-Ethyl-6-methoxy-1H-indol-3-yl)ethanone (100 mg, 0.46 mmol), prepared from 1-ethyl-6-methoxy-1H-indole by the procedure described in example 1L, is heated with 1.5 mL of dimethylformamide dimethylacetal and 100 μL of pyrrolidine at 110° C. overnight. The dimethylformamide dimethylacetal is then concentrated in vacuo. The residue is redissolved in 1.25 mL of EtOH and 250 μL of H2O, and is treated with hydroxyamine hydrochloride (66 mg, 0.95 mmol) and heated at 80° C. for 2 h. Partitioning between H2O and EtOAc and drying and concentration of the organic phase followed by purification by silica gel chromatography (EtOAc/CH2Cl2, 5/95) gives 1-ethyl-3-isoxazol-5-yl-6-methoxy-1H-indole as a white solid (72 mg, 66%).

reactant | 1-(1-Ethyl-6-methoxy-1H-indol-3-yl)ethanone | 0.46 mmol, 100 mg | C(C)N1C=C(C2=CC=C(C=C12)OC)C(C)=O | C13H15NO2
reactant | 1-ethyl-6-methoxy-1H-indole | C(C)N1C=CC2=CC=C(C=C12)OC | C11H13NO
reactant | dimethylformamide dimethylacetal | 1.5 mL | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 100 μL | N1CCCC1 | C4H9N
reactant | hydroxyamine hydrochloride | 0.95 mmol, 66 mg | Cl.ON
solvent | H2O | 250 μL | O | H2O
product | 1-ethyl-3-isoxazol-5-yl-6-methoxy-1H-indole | 72 mg, 66% | C(C)N1C=C(C2=CC=C(C=C12)OC)C1=CC=NO1 | C14H14N2O2
